US07820693B2
A Jones reagent (0.984 mmol) was added to 5 mL of a solution of 3-benzyloxy-2,2-bis(benzyloxymethyl)propan-1-ol (200 mg, 0.492 mmol) obtained in the Step A in acetone under ice-cooling, and the mixture was stirred at room temperature for one hour. Water was added to the mixture, followed by extraction with ethyl acetate. The extract was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 3-benzyloxy-2,2-bis(benzyloxymethyl)propionic acid (206 mg, 100%) as a colorless solid.

reactant | Jones reagent | 0.984 mmol | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 3-benzyloxy-2,2-bis(benzyloxymethyl)propan-1-ol | 0.492 mmol, 200 mg | C(C1=CC=CC=C1)OCC(CO)(COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C26H30O4
reactant | Water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-benzyloxy-2,2-bis(benzyloxymethyl)propionic acid | 206 mg, 100% | C(C1=CC=CC=C1)OCC(C(=O)O)(COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C26H28O5
